US06610708B1
In a nitrogen atmosphere, 3.70 g (16.0 mmol) of the silver salt of p-thiocresol and 3.75 g (16.0 mmol) of 2,4-dinitrophenylsulfenyl chloride were stirred for 3 hours in 150 ml of acetonitrile serving as a solvent, while cooling with ice water. The reaction mixture was filtered and the residue obtained after the concentration of the filtrate under reduced pressure was subjected to chromatography on a silica gel column (eluting solvent: hexane/ethyl acetate=5/1), whereby 1.64 g (5.08 mmol, yield: 31.8%) of 2,4-dinitrophenyl p-tolyldisulfide were obtained as yellow crystals.

reactant | p-thiocresol | CC1=CC=C(C=C1)S | C7H8S
reactant | 2,4-dinitrophenylsulfenyl chloride | 16.0 mmol, 3.75 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])SCl | C6H3ClN2O4S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
catalyst | silver | 16.0 mmol, 3.70 g | [Ag] | Ag
product | 2,4-dinitrophenyl p-tolyldisulfide | 5.08 mmol, 1.64 g, yield: 31.8% | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC(=C1)SSC1=CC(=C(C=C1)C)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])C | C26H18N4O8S2
